US07538111B2
4-[2-oxo-2-(4-methyl-1-piperazinyl)ethyl]pyridine
A solution is prepared of 3 g (17.3 mM) of (4-pyridinyl)acetic acid in 50 ml of tetrahydrofuran (THF) and, at ambient temperature, a solution of 3.4 g (20.7 mM) of carbonyldiimidazole in solution in 50 ml of THF, is added dropwise. The reaction mixture is agitated for 8 hours, and a solution of 1.73 g (17.3 mM) of N-methylpiperazine in 20 ml of THF is then added. The reaction mixture is heated under reflux of the solvent for 2 hours, and then concentrated under reduced pressure. The residue from evaporation is taken up with 80 ml of 3N sodium hydroxide and extracted with ethyl acetate. The organic phase is dried over magnesium sulphate and concentrated under reduced pressure. The crude product is purified by silica gel chromatography in eluting with the aid of a dichloromethane/methanol mixture (99/1; v/v). The product sought after is obtained as a colourless oil (yield=28%).

reactant | (4-pyridinyl)acetic acid | 17.3 mM, 3 g | N1=CC=C(C=C1)CC(=O)O | C7H7NO2
reactant | carbonyldiimidazole | 20.7 mM, 3.4 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-methylpiperazine | 17.3 mM, 1.73 g | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
product | 4-[2-oxo-2-(4-methyl-1-piperazinyl)ethyl]pyridine | yield=28% | O=C(CC1=CC=NC=C1)N1CCN(CC1)C | C12H17N3O
